US07064144B2
A mixture of ethyl 1-{(1R,2S)-2-hydroxy-1-[(2-naphthyloxy)methyl]propyl}-1H-imidazole-4-carboxylate (0.25 g), 28% ammonium hydroxide (14 mL) and 1,2-dimethoxyethane (7 mL) was heated at 100° C. in the stainless steel bottle for 24 hours. After cooling, the reaction mixture was concentrated in vacuo and the residue was purified by column chromatography on silica gel (gradient elution; 20:1 to 10:1 chloroform-methanol) to give the product, which was recrystallized from 5:1 ethyl acetate-ethanol (6 mL) to give ethyl 1-{(1R,2S)-2-hydroxy-1-[(2-naphthyloxy)methyl)propyl}-1H-imidazole-4-carboxamide (0.12 g).

reactant | ethyl 1-{(1R,2S)-2-hydroxy-1-[(2-naphthyloxy)methyl]propyl}-1H-imidazole-4-carboxylate | 0.25 g | O[C@H]([C@@H](COC1=CC2=CC=CC=C2C=C1)N1C=NC(=C1)C(=O)OCC)C | C20H22N2O4
reactant | ammonium hydroxide | 14 mL | [OH-].[NH4+]
reactant | 1,2-dimethoxyethane | 7 mL | COCCOC | C4H10O2
product | ethyl 1-{(1R,2S)-2-hydroxy-1-[(2-naphthyloxy)methyl)propyl}-1H-imidazole-4-carboxamide | 0.12 g | C(C)C=1N(C=C(N1)C(=O)N)[C@@H]([C@H](C)O)COC1=CC2=CC=CC=C2C=C1 | C20H23N3O3
